US06583148B1
A solution of oxalyl chloride (Aldrich) (1.97 g, 15.2 mmoles) in dichloromethane (6 mL) was added in several portions to a stirred, ice-bath cooled solution of diisopropylformamide (Aldrich) (2.00 g, 15.17 mmoles) in dichloromethane (25 mL). The ice-bath was removed, and the solution was stirred at ambient temperature for 10 minutes. Solid 5-(4-ethylphenoxy)pyrimidin-4(3H)-one (1.00 g, 4.62 mmoles) was added, and the mixture was refluxed with stirring for 45 minutes. The solution was cooled and poured into a cold solution of vigorously stirred, saturated aqueous sodium bicarbonate (80 mL). The organic layer was washed with cold saturated aqueous sodium bicarbonate (80 mL), with cold water (80 mL) and then dried over sodium sulfate. The dry solution was spin evaporated in vacuo to give the intermediate 4-chloro-5-(4-ethylphenoxy)pyrimidine as an orange liquid. The liquid was dissolved in ethanol (50 mL) and trans-4-hydroxycyclohexylamine hydrochloride (Aldrich) (1.79 g, 11.45 mmoles) was added. A solution of sodium ethoxide, which had been prepared from sodium hydride (60% in mineral oil) (Aldrich ) (0.41 g, 10.25 mmoles) and ethanol (15 mL) was added. The flask was rinsed with ethanol (10 mL), and the reaction was refluxed with stirring for 65 hours. The volatiles were removed by spin evaporate in vacuo to a small volume, and the residue was triturated with water (100 mL). The gummy residue was extracted with dichloromethane (150 mL). The solution was washed with water (80 mL), dried over sodium sulfate and spin evaporated in vacuo. This material was dissolved in ethyl acetate-hexanes and chromatographed on Silica Gel 60 (E.M.

reactant | oxalyl chloride | 15.2 mmoles, 1.97 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | diisopropylformamide | 15.17 mmoles, 2.00 g | C(C)(C)N(C=O)C(C)C | C7H15NO
reactant | 5-(4-ethylphenoxy)pyrimidin-4(3H)-one | 4.62 mmoles, 1.00 g | C(C)C1=CC=C(OC=2C(NC=NC2)=O)C=C1 | C12H12N2O2
reactant | sodium bicarbonate | 80 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 4-chloro-5-(4-ethylphenoxy)pyrimidine | ClC1=NC=NC=C1OC1=CC=C(C=C1)CC | C12H11ClN2O
